US04175206
29.5 g of ammonium glyoxylate, 75 g of ammonium acetate, 60 g of phenol and 130 ml of water are treated in the same manner as described in Example 1. 21.9 g of DL-p-hydroxyphenylglycine are thereby obtained as crystals. Yield: 40.5%, M.p. 225°-228° C. (decomp.).

reactant | ammonium glyoxylate | 29.5 g | C(C=O)(=O)[O-].[NH4+]
reactant | ammonium acetate | 75 g | C(C)(=O)[O-].[NH4+]
reactant | phenol | 60 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | 130 ml | O | H2O
product | DL-p-hydroxyphenylglycine | 21.9 g, Yield: 40.5% | C1=CC(=CC=C1C(C(=O)O)N)O | C8H9NO3
